US04088770
Preparation of 2-(2,4-difluoroanilino)benzoxazole
To a solution of 15.4 g. (0.1 mole) of 2-chlorobenzoxazole in 200 ml. of tetrahydrofuran was added dropwise a solution of 12.9 g. (0.1 mole) of 2,4-difluoroaniline in 100 ml. of tetrahydrofuran with vigorous agitation. Following the addition, the reaction mixture was heated on a steam bath under reflux for 16 hours. The reaction mixture was cooled to about 25° C., and about 500 ml. of water added thereto. The tetrahydrofuran solvent was removed by distillation under vacuum. The precipitate which formed in the aqueous medium was removed by filtration and dried. The dried precipitate was dissolved in a minimum amount of warm benzene. About 200 ml. of hexane was added to the benzene solution to effect crystallization of the reaction product. The precipitate was filtered off and dried, yielding 18.3 g. of 2-(2,4-difluoroaniline)benzoxazole having a melting point of 115°-117° C.

reactant | 2-chlorobenzoxazole | 0.1 mole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2,4-difluoroaniline | 0.1 mole | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | water | O | H2O
product | 2-(2,4-difluoroanilino)benzoxazole | FC1=C(NC=2OC3=C(N2)C=CC=C3)C=CC(=C1)F | C13H8F2N2O
